US06891070B2
a) [2-(2-chloroethoxy)ethoxymethyl]benzene
is prepared from benzyl bromide and 2-(2-chloroethoxy)ethanol by the method described in literature (Bessodes, 1996).

reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-(2-chloroethoxy)ethanol | ClCCOCCO | C4H9ClO2
product | [2-(2-chloroethoxy)ethoxymethyl]benzene | ClCCOCCOCC1=CC=CC=C1 | C11H15ClO2
